US07022825B2
A. Preparation of (4S)-N-[(2S,3R)-2-methyl-3-hydroxybutanoyl]-4-benzyl-2-oxazolidinone:
Prepared from (4S)-N-propionyl-4-benzyl-2-oxazolidinone and acetaldehyde according to the procedure described in Example 1, paragraph A. 1H-NMR (360 MHz, CDCl3): δ 7.2–7.4 (m,5H); 4.71 (m,1H); 4.12–4.25 (m,2H); 3.76 (dq,1H); 3.26 (dd,1H); 2.79 (dd,1H); 1.30 (d,3H), 1.21 (d,3H).

reactant | (4S)-N-propionyl-4-benzyl-2-oxazolidinone | C(CC)(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O | C13H15NO3
reactant | acetaldehyde | C(C)=O | C2H4O
product | (4S)-N-[(2S,3R)-2-methyl-3-hydroxybutanoyl]-4-benzyl-2-oxazolidinone | C[C@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)[C@@H](C)O | C15H19NO4
